US06211215B1
In substantially the same manner as in Reference Example 47, 4-chloro-2-thiophenecarboxamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(4-chloro-2-thienyl)oxazole. The yield was 48%. Recrystallization from diethyl ether-hexane gave colorless needles, mp 72-73° C.

reactant | 4-chloro-2-thiophenecarboxamide | ClC=1C=C(SC1)C(=O)N | C5H4ClNOS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(4-chloro-2-thienyl)oxazole | yield was 48% | ClCC=1N=C(OC1)C=1SC=C(C1)Cl | C8H5Cl2NOS
